US05760032
Ethyl 2-(4-(3-(2-chlorobenzoyl)-5-ethylthiophen-2-yl)-5-trifluoromethyl[1,2,4]triazol-3-ylmethylcarbamoyl)indole-1-acetate (1.5 g) and a 2M aqueous sodium hydroxide solution (1.25 ml) were added to methanol (20 ml), and the mixture was stirred at room temperature for 30 minutes. Then, the solvent was evaporated and the residue was dissolved in water. Ethyl acetate was added to the solution for washing. The aqueous layer was taken out, and citric acid was added to adjust the solution to pH 3. The solution was extracted with ethyl acetate and the extract was dried over magnesium sulfate. The solvent was evaporated, and the residue was crystallized from ethyl acetate to give 2-(4-(3-(2-chlorobenzoyl)-5-ethylthiophen-2-yl)-5-trifluoromethyl[1,2,4]triazol-3-ylmethylcarbamoyl)indole-1-acetic acid.

reactant | Ethyl 2-(4-(3-(2-chlorobenzoyl)-5-ethylthiophen-2-yl)-5-trifluoromethyl[1,2,4]triazol-3-ylmethylcarbamoyl)indole-1-acetate | 1.5 g | ClC1=C(C(=O)C2=C(SC(=C2)CC)N2C(=NN=C2C(F)(F)F)CNC(=O)C=2N(C3=CC=CC=C3C2)CC(=O)OCC)C=CC=C1 | C30H25ClF3N5O4S
reactant | sodium hydroxide | 2M, 1.25 ml | [OH-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
product | 2-(4-(3-(2-chlorobenzoyl)-5-ethylthiophen-2-yl)-5-trifluoromethyl[1,2,4]triazol-3-ylmethylcarbamoyl)indole-1-acetic acid | ClC1=C(C(=O)C2=C(SC(=C2)CC)N2C(=NN=C2C(F)(F)F)CNC(=O)C=2N(C3=CC=CC=C3C2)CC(=O)O)C=CC=C1 | C28H21ClF3N5O4S
